US06080743
1.38 g (60 mmol) of sodium are dissolved in portions, at 0° C. under N2, in 200 ml of methanol. At 0° C., 5.85 ml (65 mmol) of 2-nitropropane are added dropwise. 18.1 g (50 mmol) of 5-(bromomethyl)-7-bromo-2,3-dimethoxy-quinoxaline are then added. The beige suspension is heated to reflux and stirred for 1 hour. The reaction mixture is poured onto 600 ml of water and the methanol is distilled off. The residue is extracted twice with ethyl acetate, and the organic phases are dried over sodium sulfate and filtered with suction. The filtrate is concentrated and the residue is dried under a high vacuum. 7-Bromo-5-formyl-2,3-dimethoxy-quinoxaline is obtained in the form of beige crystals having a melting point of 179-182° C.

reactant | sodium | 60 mmol, 1.38 g | [Na] | Na
reactant | 2-nitropropane | 65 mmol, 5.85 ml | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | 5-(bromomethyl)-7-bromo-2,3-dimethoxy-quinoxaline | 50 mmol, 18.1 g | BrCC1=C2N=C(C(=NC2=CC(=C1)Br)OC)OC | C11H10Br2N2O2
reactant | water | 600 ml | O | H2O
solvent | methanol | 200 ml | CO | CH4O
product | 7-Bromo-5-formyl-2,3-dimethoxy-quinoxaline | BrC1=CC(=C2N=C(C(=NC2=C1)OC)OC)C=O | C11H9BrN2O3
